US08957069B2
5-bromo-2,2,6,7-tetramethyl-1-benzofuran-3(2H)-one
Bromine (10.0 mL, 195 mmol) was added to a solution of acetic acid (150 mL) containing 2,2,6,7-tetramethyl-1-benzofuran-3(2H)-one (26.4 g, 139 mmol) synthesized in Reference Example 17, and the mixture was stirred at room temperature for 3 hours. After that, the reaction solution was poured into 5% aqueous solution of sodium sulfite. The generated crystals were collected by filtration, and recrystallized from methanol to give 32.8 g of the title compound (yield: 88%).

reactant | Bromine | 195 mmol, 10.0 mL | BrBr | Br2
reactant | 2,2,6,7-tetramethyl-1-benzofuran-3(2H)-one | 139 mmol, 26.4 g | CC1(OC2=C(C1=O)C=CC(=C2C)C)C | C12H14O2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
product | 5-bromo-2,2,6,7-tetramethyl-1-benzofuran-3(2H)-one | 32.8 g, yield: 88% | BrC=1C(=C(C2=C(C(C(O2)(C)C)=O)C1)C)C | C12H13BrO2
